US04839379
1-(4-Aminophenyl)- 3-methyl-3-azabicyclo[3.1.0]hexane-2,4-dione
A mixture of 130 mg of 1-(4-acetylaminophenyl)-3-methyl-3-azabicyclo[3.1.0]hexane-2,4-dione and 1 ml of approx. 18% hydrochloric acid is stirred for about 4 hours at 100° C. The reaction mixture is adjusted at 0° C. to pH 9-10 with saturated aqueous sodium bicarbonate solution and extracted twice with ethyl acetate. The organic phases are washed until neutral with a small amount of water and a dilute solution of sodium chloride, dried over magnesium sulfate, filtered and concentrated. Recrystallisation from ethyl acetate/petroleum ether affords the title compound which is identical with the title compound of Example 3(a).

reactant | 1-(4-acetylaminophenyl)-3-methyl-3-azabicyclo[3.1.0]hexane-2,4-dione | 130 mg | C(C)(=O)NC1=CC=C(C=C1)C12C(N(C(C2C1)=O)C)=O | C14H14N2O3
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-(4-Aminophenyl)- 3-methyl-3-azabicyclo[3.1.0]hexane-2,4-dione | NC1=CC=C(C=C1)C12C(N(C(C2C1)=O)C)=O | C12H12N2O2
